US07094801B2
4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)-phenyl]-acryloyl}-benzenesulfonamide
The title compound was prepared by condensing 4-acetyl-benzenesulfonamide (Ex-26A) and 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)-benzaldehyde (Ex-116A) in a similar manner as described in Ex-3. Yellow solid, 90% yield, mp 148–150° C. 1H-NMR (CDCl3) δ 8.17 (d, J=16 Hz, 1H), 8.09 (d, J=9 Hz, 2H), 8.01 (d, J=9 Hz, 2H), 7.68 (s, 1H), 7.64 (d, J=8 Hz, 1H), 7.47 (d, J=16 Hz, 1H), 7.35 (d, J=8 Hz, 1H), 7.22–7.26 (m, 1H), 7.11–7.16 (m, 1H), 6.58 (s, 1H), 6.50 (s, 1H), 4.92 (br, 2H), 4.02 (s, 3H), 3.90 (s, 3H), 3.58 (s, 3H). MS m/z=477 ([M+H]+, 100%). HRMS (ES+) Calcd. for C26H24NO5S: 477.1484. Found: 477.1487.

reactant | 4-acetyl-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C | C18H17NO3
product | 4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)-phenyl]-acryloyl}-benzenesulfonamide | 90% yield | COC1=C(C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N | C26H24N2O5S
